US06458810B1
A solution of 3-[1,3-dioxo-4-benzamidoisoindolin-2-yl]-2,6-dioxo-5-acetoxypiperidine (1.36 g, 3.5 mmol) and p-toluenesulfonic acid (0.33 g, 1.8 mmol) in methanol (20 mL) is heated at reflux for 5 hours. The solvent is removed in vacuo to give 3-[1,3-dioxo-4-benzamidoisoindolin-2-yl]-2,6-dioxo-5-hydroxypiperidine which is further purified by column chromatography.

reactant | 3-[1,3-dioxo-4-benzamidoisoindolin-2-yl]-2,6-dioxo-5-acetoxypiperidine | 3.5 mmol, 1.36 g | O=C1N(C(C2=C(C=CC=C12)NC(C1=CC=CC=C1)=O)=O)C1C(NC(C(C1)OC(C)=O)=O)=O | C22H17N3O7
reactant | p-toluenesulfonic acid | 1.8 mmol, 0.33 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 20 mL | CO | CH4O
product | 3-[1,3-dioxo-4-benzamidoisoindolin-2-yl]-2,6-dioxo-5-hydroxypiperidine | O=C1N(C(C2=C(C=CC=C12)NC(C1=CC=CC=C1)=O)=O)C1C(NC(C(C1)O)=O)=O | C20H15N3O6
